US08557822B2
To a stirred mixture of 6-hydroxy-2-napthoic acid (100 mg, 0.531 mmol) in anhydrous dimethylormamide (5 mL) was added triethylamine (163 μl, 1.168 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (112 mg, 0.584 mmol), and 1-benzyl-piperidine-4-amine (100 μl, 0.531 mmol). The mixture was allowed to stir at room temperature overnight, then poured into water. The resulting solids were collected by filtration and purified by column chromatography to yield N-(1-benzylpiperidin-4-yl)-6-hydroxy-2-naphthamide as a light brown solid (0.191 g, 80%).

reactant | 6-hydroxy-2-napthoic acid | 0.531 mmol, 100 mg | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | triethylamine | 1.168 mmol, 163 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.584 mmol, 112 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-benzyl-piperidine-4-amine | 0.531 mmol, 100 μl | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | water | O | H2O
product | N-(1-benzylpiperidin-4-yl)-6-hydroxy-2-naphthamide | 0.191 g, 80% | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)O | C23H24N2O2
